US06107329
Cis-3,4-Dihydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of crude 2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester (10.5 g, 62.1 mmol) in tetrahydro-furan (300 ml) was treated sequentially with osmium tetroxide (2.5 % in t-butanol, 6 mL) and N-methylmorpholine-N-oxide at 25° C. After 48 hours, aqueous 10% sodium thiosulfate solution was added and the mixture was stirred 30 minutes, partially concentrated to remove tetrahydro-furan, and the resulting aqueous mixture extracted twice with ether. The ether extracts were washed with 10% sodium thiosulfate, 0.1N HCl, dried and concentrated giving a dark orange oil which was chromatographed on silica eluted with 1%, 2%, 4%, 8% and 10% ethanol-dichloromethane giving an amber syrup (4.09 g).

reactant | 2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester | 62.1 mmol, 10.5 g | C(C)(C)(C)OC(=O)N1CC=CC1 | C9H15NO2
reactant | N-methylmorpholine-N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydro-furan | 300 ml | O1CCCC1 | C4H8O
catalyst | osmium tetroxide | 6 mL | [Os](=O)(=O)(=O)=O
product | Cis-3,4-Dihydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](C1)O)O | C9H17NO4
